US06589984B1
Trimethylsilyldiazomethane (2 M hexane solution, 85 μl) was added to a mixed solution of 6-(6-carboxybenzofuran-2-yl)-3,5-dimethyl-4-hydroxy-2H-pyran-2-one (50 mg) in MeOH (5 ml) and toluene (1 ml), and the mixture was stirred at room temperature for 10 minutes. After adding acetic acid to the reaction solution for quenching of the excess trimethylsilyldiazomethane, it was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (CH2Cl2/MeOH =9/1) to obtain 3,5-dimethyl-4-hydroxy-6-(6-(methoxycarbonyl) benzofuran-2-yl)-2H-pyran-2-one.

reactant | Trimethylsilyldiazomethane | 2 M, 85 μl | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 6-(6-carboxybenzofuran-2-yl)-3,5-dimethyl-4-hydroxy-2H-pyran-2-one | 50 mg | C(=O)(O)C1=CC2=C(C=C(O2)C2=C(C(=C(C(O2)=O)C)O)C)C=C1 | C16H12O6
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | MeOH | 5 ml | CO | CH4O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-dimethyl-4-hydroxy-6-(6-(methoxycarbonyl) benzofuran-2-yl)-2H-pyran-2-one | CC=1C(OC(=C(C1O)C)C=1OC2=C(C1)C=CC(=C2)C(=O)OC)=O | C17H14O6
